US08957089B2
N-{2-[4-(Benzyloxy)phenyl]ethyl}-1-(4-chloro-2-methoxyphenyl)cyclobutanecarboxamide was prepared analogously to example 65 from 1-(4-chloro-2-methoxyphenyl)cyclobutanecarboxylic acid (3.45 g, 14.3 mmol) and 2-[4-(benzyloxy)phenyl]ethanamine (4.2 g, 15.92 mmol). Yield: 4.7 g (10.45 mmol, 66%).

reactant | 1-(4-chloro-2-methoxyphenyl)cyclobutanecarboxylic acid | 14.3 mmol, 3.45 g | ClC1=CC(=C(C=C1)C1(CCC1)C(=O)O)OC | C12H13ClO3
reactant | 2-[4-(benzyloxy)phenyl]ethanamine | 15.92 mmol, 4.2 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CCN | C15H17NO
product | N-{2-[4-(Benzyloxy)phenyl]ethyl}-1-(4-chloro-2-methoxyphenyl)cyclobutanecarboxamide | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CCNC(=O)C1(CCC1)C1=C(C=C(C=C1)Cl)OC | C27H28ClNO3
